US07915288B2
n-BuLi (12 ml of 1.6 M in hexane) is added dropwise to a solution of 4-bromo-1-chloro-6-methoxy-3-methyl-isoquinoline (4.8 g, 17 mmol) in THF (60 ml) at −78° C. After stirring for 40 min, DMF (4 ml, 51 mmol) is added slowly. The reaction is allowed to warm to 0° C. and the stirring is continued for 1 h. The mixture is then quenched with 1N—HCl (30 ml) and extracted with EtOAc. The combined extracts are dried over Na2SO4 and evaporated. The residue is chromatographed on silica gel eluting with EtOAc/hexane (1:4) to give 2.9 g of 1-chloro-6-methoxy-3-methyl-isoquinoline-4-carbaldehyde. 1H NMR (CDCl3) 10.8 (s, 1H), 8.61 (s, 1H), 8.24 (d, 1H), 7.29 (d, 1H), 4.01 (s, 3H), 2.99 (s, 3H).

reactant | n-BuLi | 1.6 M, 12 ml | [Li]CCCC
reactant | 4-bromo-1-chloro-6-methoxy-3-methyl-isoquinoline | 17 mmol, 4.8 g | BrC1=C(N=C(C2=CC=C(C=C12)OC)Cl)C | C11H9BrClNO
reactant | DMF | 51 mmol, 4 ml | CN(C)C=O | C3H7NO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-chloro-6-methoxy-3-methyl-isoquinoline-4-carbaldehyde | 2.9 g | ClC1=NC(=C(C2=CC(=CC=C12)OC)C=O)C | C12H10ClNO2
